US08476445B2
A solution of 4-bromo-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene, prepared according to Example 2, (10.0 g. 0.0338 mole) in 400 mL THF was cooled to −78° C., n-butyllithium (16 mL, 0.042 mole) was added via syringe, and the mixture was stirred at −78° C. for 30 minutes. While keeping the temperature below −75° C., N,N-dimethyl cyclopropylcarboxylic acid amide (11.5 g, 0.102 mole) in 30 mL THF was added dropwise, and the mixture was stirred at −78° C. for 30 minutes. The mixture was allowed to warm to −15° C., and was quenched with water. The product was extracted with methylene chloride, washed with saturated NaCl solution, dried over Na2SO4, and concentrated. The residue was cooled to 0° C., treated with minimal acetonitrile, and filtered, to afford 6.95 g of 4-(cyclopropyl-oxo-methyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene as a white solid (72%).

reactant | 4-bromo-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene | BrC1=CC=C(C=C1)C(C=1OCC(N1)(C)C)(C)C | C14H18BrNO
reactant | n-butyllithium | 0.042 mole, 16 mL | C(CCC)[Li]
reactant | N,N-dimethyl cyclopropylcarboxylic acid amide | 0.102 mole, 11.5 g | CN(C(=O)C1CC1)C | C6H11NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(cyclopropyl-oxo-methyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene | 6.95 g, 72% | C1(CC1)C(C1=CC=C(C=C1)C(C=1OCC(N1)(C)C)(C)C)=O | C18H23NO2
